US07553851B2
Pentafluorophenyl (1-azabicyclo[2.2.2]oct-3-yl)acetate hydrochloride
358 mg (1.94 mmol) of pentafluorophenol, 120.5 mg (0.63 mmol) of EDC and 1 drop of N,N-diisopropylethylamine are added to a solution of 100 mg (0.49 mmol) of 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride in 4 ml of dichloromethane at 0° C. The mixture is stirred at room temperature for 18 h. The contents of the flask are concentrated in vacuo and dried under high vacuum. The resulting crude product is employed without further purification in the following stages.

reactant | pentafluorophenol | 1.94 mmol, 358 mg | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | EDC | 0.63 mmol, 120.5 mg
reactant | 1-azabicyclo[2.2.2]oct-3-ylacetic acid hydrochloride | 0.49 mmol, 100 mg | Cl.N12CC(C(CC1)CC2)CC(=O)O
catalyst | N,N-diisopropylethylamine | 1 drop | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Pentafluorophenyl (1-azabicyclo[2.2.2]oct-3-yl)acetate hydrochloride | Cl.N12CC(C(CC1)CC2)CC(=O)OC2=C(C(=C(C(=C2F)F)F)F)F | InChI=1S/C15H14F5NO2.ClH/c16-10-11(17)13(19)15(14(20)12(10)18)23-9(22)5-8-6-21-3-1-7(8)2-4-21;/h7-8H,1-6H2;1H
